US09227973B2
Step A: (5S,6S)-5-Azido-6-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-9H-cyclohepta[b]pyridin-9-one
To a solution of oxalyl chloride (0.22 mL, 2.6 mmol) in dichloromethane (20 mL) at −15° C. was added DMSO (0.24 mL, 3.4 mmol). The reaction mixture was cooled to −78° C. and a solution of (5S,6S,9R)-5-azido-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol (prepared according to the procedures described in WO2011/046997, 270 mg, 0.85 mmol) in dichloromethane (5 mL) was added and the resulting solution was stirred at −78° C. for 2 h. Triethylamine (0.71 mL, 5.1 mmol) was added and the reaction mixture was allowed to warm to ambient temperature and then washed with water (15 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with a gradient of hexanes:EtOAc 100:0 to 0:100, to give the title compound. MS: m/z=315.2 (M+1).

reactant | oxalyl chloride | 2.6 mmol, 0.22 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 3.4 mmol, 0.24 mL | CS(=O)C | C2H6OS
reactant | (5S,6S,9R)-5-azido-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | N(=[N+]=[N-])[C@H]1[C@@H](CC[C@H](C2=NC=CC=C21)O)C2=C(C(=CC=C2)F)F | C16H14F2N4O
reactant | Triethylamine | 5.1 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (5S,6S)-5-Azido-6-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-9H-cyclohepta[b]pyridin-9-one | N(=[N+]=[N-])[C@H]1[C@@H](CCC(C2=NC=CC=C21)=O)C2=C(C(=CC=C2)F)F | C16H12F2N4O
